data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5041,5729,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][c-:16]1[c:17](=[O:18])[o:19][c:20](-[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[n+:27]1[CH3:28]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:16]1([CH3:15])[C:17](=[O:18])[O:19][C:20]2([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:27]1[CH3:28],water,298.15,24.00993270764669,7.554021093126115
1961,2174,[CH3:12][N+:13](=[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C-:27]([C:28]#[N:29])[C:30]#[N:31].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:13]([CH3:12])[C:27]3([C:28]#[N:29])[C:30]#[N:31],water,298.15,27.83961116490156,-24.189460156815024
1402,1543,[CH3:10][C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:14]([CH3:15])[C:11]2([CH3:10])[C:12]#[N:13],water,298.15,17.288819228733082,-35.188728747332114
122,138,[CH3:1][C:2]#[C:3][Br:4].[CH3:5][CH-:6][O+:7]=[C:8]([CH3:9])[C:10](=[O:11])[O:12][CH3:13]>>[CH3:1][C:2]1=[C:3]([Br:4])[CH:6]([CH3:5])[O:7][C:8]1([CH3:9])[C:10](=[O:11])[O:12][CH3:13],water,298.15,9.856577931815362,-79.64551167118108
2469,2737,[CH3:18][C:19](=[O:20])[C-:21]([NH+:22]=[CH:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([CH3:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([CH3:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:22][C:21]2([C:19]([CH3:18])=[O:20])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,25.28059888587729,-19.405880330469287
234,257,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][C:9]([CH3:10])=[N+:11]([CH3:12])[CH-:13][C:14]#[N:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:13]([C:14]#[N:15])[N:11]([CH3:12])[C:9]1([CH3:8])[CH3:10],water,298.15,10.606508313217825,-49.7693904805272
2653,2942,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N+:24]([CH3:25])=[C:26]([CH3:27])[CH3:28].[CH3:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:26]([CH3:27])([CH3:28])[N:24]([CH3:25])[C:17]2([C:15]([NH:14][CH3:13])=[O:16])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,26.465542885908533,-24.061687231528342
2767,3073,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([CH3:24])[O+:25]=[C:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][NH:2][C:3](=[O:4])[C:5](=[C:6]([C:7]([F:8])([F:9])[F:10])[C:11]([F:12])([F:13])[F:14])[C:15]([F:16])([F:17])[F:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:15]([F:16])([F:17])[F:18])[C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[C:26]([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)([c:33]2[cH:34][cH:35][cH:36][cH:37][cH:38]2)[O:25][C:23]1([C:21]([NH:20][CH3:19])=[O:22])[CH3:24],water,298.15,21.18899728397168,-12.983980252939274
3921,4485,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[CH:13][C:14]([CH3:15])=[O:16])[C:17](=[O:18])[NH:19][CH3:20]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:13]([C:14]([CH3:15])=[O:16])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,24.79933550873072,-5.850656476547928
3570,4068,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([N+:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:13]=[N:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,33.17824735438368,3.5369250385001907
4731,5403,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])=[N:16][C:17]2([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,20.60317759634748,-32.52802574541986
